US08198279B2
N-(3-(3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)-3-(trifluoro-methoxy)benzamide (AA-002)
Method G1: 8-(3-aminophenoxy)pyrido[2,3-b]pyrazin-3(4H)-one (43 mg, 0.169 mmol) and diisopropylethylamine (44 μL, 0.254 mmol) were mixed in dry THF (5.0 mL) and 3-trifluoromethoxybenzoyl chloride (57 mg, 0.254 mmol) was added. This mixture was heated to reflux for 17 h. After cooling at RT, the solvent was removed in vacuo. The obtained oily residue was dissolved in DCM and washed with water and dried over MgSO4. After evaporation of DCM, the residue was retaken in Et2O, triturated and filtered off to afford the title compound as a white solid (45 mg, 60%).

reactant | 8-(3-aminophenoxy)pyrido[2,3-b]pyrazin-3(4H)-one | 0.169 mmol, 43 mg | NC=1C=C(OC2=CC=NC=3NC(C=NC32)=O)C=CC1 | C13H10N4O2
reactant | diisopropylethylamine | 0.254 mmol, 44 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-trifluoromethoxybenzoyl chloride | 0.254 mmol, 57 mg | FC(OC=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O2
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | N-(3-(3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)-3-(trifluoro-methoxy)benzamide | 45 mg, 60% | O=C1C=NC2=C(N1)N=CC=C2OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)OC(F)(F)F)=O | C21H13F3N4O4
